US03956260
5. z-gly-Phe-Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-OtBu
667 mg of Z-Gly-Phe-Gly-Pro-OH are dissolved in 20 ml of acetonitrile together with 608 mg of H-Glu(OtBu)-Thr(tBu)-Pro-OtBu obtained under 4 and after the addition of 222 mg of N-hydroxysuccinimide and 269 mg of dicyclohexylcarbodiimide, stirred for 16 hours at room temperature. The precipitated dicyclohexyl urea is filtered off, the filtrate . evaporated, the residue dissolved in much ethyl acetate and the solution washed as described under 1, above. After drying and evaporation of the solution in vacuo, the crude product is purified by chromatography on a column of silica gel. It can be eluted with ethyl acetate an ethyl acetate×ethanol (4:1). It is then reprecipitated from ether. Melting point: 96° - 99°C. Thin-layer chromatogram on silica gel: RfCHCl3-MeOH(δ:1) = 0.40; Rf102A = 0.75; Rf52 = 0.80

reactant | Z-Gly-Phe-Gly-Pro-OH | 667 mg | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C26H30N4O7
reactant | H-Glu(OtBu)-Thr(tBu)-Pro-OtBu | 608 mg | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C26H47N3O7
reactant | N-hydroxysuccinimide | 222 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 269 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | z-gly-Phe Gly-Pro-Glu(OtBu)-Thr(tBu)-Pro-OtBu | C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)CNC(=O)OCC2=CC=CC=C2.NCC(=O)N1[C@H](C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N2[C@H](C(=O)OC(C)(C)C)CCC2)CCC1 | InChI=1S/C33H57N5O9.C19H20N2O5/c1-20(45-31(2,3)4)26(29(43)38-18-12-14-23(38)30(44)47-33(8,9)10)36-27(41)21(15-16-25(40)46-32(5,6)7)35-28(42)22-13-11-17-37(22)24(39)19-34;22-17(12-20-19(25)26-13-15-9-5-2-6-10-15)21-16(18(23)24)11-14-7-3-1-4-8-14/h20-23,26H,11-19,34H2,1-10H3,(H,35,42)(H,36,41);1-10,16H,11-13H2,(H,20,25)(H,21,22)(H,23,24)/t20-,21+,22+,23+,26+;16-/m10/s1
